US07329680B2
A solution of 4-(4′-dibenzofuran-4-yl-bipheny-4-yloxy)-N-tert-butoxycarbonyl-proline methyl ester (400 mg, 0.71 mmol) in THF (3 mL) and methanol (4 mL) was cooled to 0° C. and treated with 2 N KOH (1.25 mL). After stirring at room temperature for 1 H the solution was acidified with 10% HCl to pH 2 and diluted with 25ml of ethyl acetate. After being separated, the aqueous layer was extracted with ethyl acetate (3×15 mL) and the combined organic layers were dried over MgSO4 and concentrated. Purification by flash column chromatography (2-5% methanol in dichloromethane) provided 4-(4′-dibenzofuran-4-yl-bipheny-4-yloxy)-N-butoxycarbonyl-proline (320 mg, 82%) as pale yellow solid. 0.320 g (yield 82.1%). 1H NMR (DMSO-d6), δ 8.16 (dd, J=8, 12 Hz, 2H), 7.98 (d, J=9 Hz, 2H), 7.80 (m, 6H), 7.47 (m, 3H), 6.97 (d, J=9 Hz, 2H), 5.08 (m, 1H), 4.29 (t, J=9 Hz, 1H), 3.72 (m, 1H), 3.42 (dd, J=6, 9 Hz, 1H), 2.62 (m, 1H), 2.20 (m, 1H), 1.44 (s, 9H). LCMS 450 (M+−100).

reactant | 4-(4′-dibenzofuran-4-yl-bipheny-4-yloxy)-N-tert-butoxycarbonyl-proline methyl ester | 0.71 mmol, 400 mg | COC([C@H]1N(CC(C1)OC1=CC=C(C=C1)C1=CC=C(C=C1)C1=CC=CC2=C1OC1=C2C=CC=C1)C(=O)OC(C)(C)C)=O | C35H33NO6
reactant | KOH | 2 N, 1.25 mL | [OH-].[K+]
reactant | HCl | Cl | ClH
reactant | THF | 3 mL | C1CCOC1 | C4H8O
solvent | methanol | 4 mL | CO | CH4O
solvent | ethyl acetate | 25ml | C(C)(=O)OCC | C4H8O2
product | 4-(4′-dibenzofuran-4-yl-bipheny-4-yloxy)-N-butoxycarbonyl-proline | 320 mg, 82% | C1=CC=C(C=2OC3=C(C21)C=CC=C3)C3=CC=C(C=C3)C3=CC=C(C=C3)OC3C[C@H](N(C3)C(=O)OCCCC)C(=O)O | C34H31NO6
